US07943609B2
N4-[(1S)-2-(Benzyloxy)-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)ethyl]quinoline-3,4-diamine (1.66 g, 3.80 mmol) was dissolved in 40 mL of anhydrous 1,2-dichloroethane and the solution was stirred under N2. Ethyl 2-chloroethanimidoate hydrochloride (1.80 g, 11.4 mmol) was then added and the reaction mixture was heated to 70° C. After stirring overnight, the reaction mixture was cooled and treated with 20 mL of saturated NaHCO3 solution. The layers were separated and the organic portion was washed successively with H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 20-50% ethyl acetate/hexanes) gave 1.61 g of 1-[(1S)-2-(benzyloxy)-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)ethyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline as a golden syrup.

reactant | N4-[(1S)-2-(Benzyloxy)-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)ethyl]quinoline-3,4-diamine | 3.80 mmol, 1.66 g | C(C1=CC=CC=C1)OC[C@@H](CO[Si](C)(C)C(C)(C)C)NC1=C(C=NC2=CC=CC=C12)N | C25H35N3O2Si
reactant | Ethyl 2-chloroethanimidoate hydrochloride | 11.4 mmol, 1.80 g | Cl.ClCC(OCC)=N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 1-[(1S)-2-(benzyloxy)-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)ethyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline | 1.61 g | C(C1=CC=CC=C1)OC[C@@H](CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl | C27H34ClN3O2Si
